US07893056B2
(2S)—N,N-Dimethyl-1-(phenylcarbonyl)-2-piperidinecarboxamide (883 mg, 3.396 mmol) was dissolved in 20 mL of THF, cooled to 0° C., and then LiAlH4 (1.386 mg, 36.54 mmol) was added portion wise. The mixture was heated to 80° C. for 2 h, then allowed to cool to RT. The reaction was quenched in succession with H2O (1.0 mL), 15% aq. NaOH (1.0 mL) and H2O (3.0 mL), and was stirred at room temperature overnight. The contents were filtered, and the filtrate was concentrated in vacuo to provide N,N-dimethyl-1-[(2S)-1-(phenylmethyl)-2-piperidinyl]methanamine (590 mg, 75%). LCMS: (M+H)+: 233.1.

reactant | (2S)—N,N-Dimethyl-1-(phenylcarbonyl)-2-piperidinecarboxamide | 3.396 mmol, 883 mg | CN(C(=O)[C@H]1N(CCCC1)C(=O)C1=CC=CC=C1)C | C15H20N2O2
reactant | LiAlH4 | 36.54 mmol, 1.386 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | N,N-dimethyl-1-[(2S)-1-(phenylmethyl)-2-piperidinyl]methanamine | 590 mg, 75% | CN(C[C@H]1N(CCCC1)CC1=CC=CC=C1)C | C15H24N2
